data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4822,5504,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[c:15](=[O:16])[o:17][c:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[n+:25]1[CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:18]2([c:19]3[cH:20][cH:21][cH:22][cH:23][cH:24]3)[O:17][C:15](=[O:16])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[N:25]2[CH3:26],water,298.15,21.81990608870841,3.5215849538837825
4414,5046,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[N-:19][O+:20]=[CH:21][C:22]#[N:23]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:19]([C:17]([O:16][CH3:15])=[O:18])[O:20][CH:21]2[C:22]#[N:23],water,298.15,10.01567989023685,-35.04790982802182
2496,2773,[C:1]1#[C:2][C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][CH2:17][CH2:18][CH2:19][CH:20]1[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:27][NH:28][C:29](=[O:30])[C:31]#[N+:32][CH-:33][C:34]([CH3:35])=[O:36]>>[C:1]12=[C:2]([C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)[CH2:16][CH2:17][CH2:18][CH2:19][CH:20]1[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:31]([C:29]([NH:28][CH3:27])=[O:30])=[N:32][CH:33]2[C:34]([CH3:35])=[O:36],water,298.15,16.60822178827139,-69.36759696684848
1972,2187,[CH3:18][O:19][C:20](=[O:21])[C-:22]([C:23]#[N:24])[N+:25]([CH3:26])=[C:27]([CH3:28])[CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([O:19][CH3:18])=[O:21])([C:23]#[N:24])[N:25]([CH3:26])[C:27]2([CH3:28])[CH3:29],water,298.15,23.525853271261465,-29.83437996711736
2395,2660,[CH3:19][NH:20][C:21](=[O:22])[C:23]([C:24]#[N:25])=[N+:26]([CH3:27])[N-:28][C:29](=[O:30])[O:31][CH3:32].[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]#[C:7][C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]2=[C:7]([C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([C:24]#[N:25])[N:26]([CH3:27])[N:28]2[C:29](=[O:30])[O:31][CH3:32],water,298.15,17.825086020282715,-25.79011502713076
278,302,[CH3:1][C:2]#[C:3][C:4]([F:5])([F:6])[F:7].[CH3:8][NH:9][C:10](=[O:11])[c:12]1[o:13][c:14](=[O:15])[c-:16]([C:17]#[N:18])[o+:19]1>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[C:16]2([C:17]#[N:18])[C:14](=[O:15])[O:13][C:12]1([C:10]([NH:9][CH3:8])=[O:11])[O:19]2,water,298.15,23.78128289127336,-25.8557605107088
3552,4050,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c-:12]1[o+:13][c:14]([C:15]#[N:16])[o:17][c:18]1=[O:19]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]1([C:15]#[N:16])[O:13][C:12]2([CH3:11])[C:18](=[O:19])[O:17]1,water,298.15,11.977707299743445,-27.437905716295703
3608,4119,[CH3:9][C:10](=[O:11])[c:12]1[o:13][c:14](=[O:15])[c-:16]([CH3:17])[n+:18]1[CH3:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:16]2([CH3:17])[C:14](=[O:15])[O:13][C:12]1([C:10]([CH3:9])=[O:11])[N:18]2[CH3:19],water,298.15,24.23772580943384,-4.008678337835274
3535,4033,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C:13]([CH3:14])=[N+:15]([CH3:16])[N-:17][C:18]#[N:19]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:17]([C:18]#[N:19])[N:15]([CH3:16])[C:13]2([C:11]([O:10][CH3:9])=[O:12])[CH3:14],water,298.15,16.886666497802256,-7.304776899994877
1884,2089,[CH3:12][O:13][C:14](=[O:15])[C:16]([CH3:17])=[NH+:18][C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:19]([CH3:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:18][C:16]2([C:14]([O:13][CH3:12])=[O:15])[CH3:17],water,298.15,16.595828160209162,-17.200787266377464
2863,3181,[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]#[C:12][C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[CH2:26][CH2:27][CH2:28][CH2:29]1.[CH3:30][NH:31][C:32](=[O:33])[C:34](=[O+:35][C-:36]([CH3:37])[C:38](=[O:39])[NH:40][CH3:41])[C:42]([CH3:43])=[O:44]>>[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]2=[C:12]([C:13]([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)([c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[CH2:26][CH2:27][CH2:28][CH2:29]1)[C:36]([CH3:37])([C:38](=[O:39])[NH:40][CH3:41])[O:35][C:34]2([C:32]([NH:31][CH3:30])=[O:33])[C:42]([CH3:43])=[O:44],water,298.15,28.03191016705924,-40.620011275103295
